US07745475B2
3-[4-(Azetidin-1-ylcarbonyl)phenoxy]-5-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethoxy)benzoic acid
3-[4-(Azetidin-1-ylcarbonyl)-2-chlorophenoxy]-5-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethoxy)benzoic acid (3.08 g, 5.93 mmol) was dissolved in methanol (30 mL) and THF (30 mL). Triethylamine (2 mL) was added and the flask evacuated and purged with nitrogen (3 times). 10% Palladium on carbon (200 mg) was added and the flask further evacuated and finally purged with hydrogen gas. The reaction mixture was stirred at ambient temperature for 16 hours LC-MS showed only 26% required product. The reaction mixture was evacuated and purged with nitrogen (3 times). The catalyst was filtered off, and the flask containing the filtrate evacuated and purged with nitrogen (3 times). Fresh 10% Palladium on carbon (200 mg) was added and the flask further evacuated and finally purged with hydrogen gas. The reaction mixture was stirred at ambient temperature for a further 16 hours LC-MS showed complete reaction. The reaction mixture was evacuated and purged with nitrogen (3 times). The catalyst was filtered off, the filtrate concentrated in vacuo and dissolved in diethylether (50 mL), washed with water (20 mL), 1N citric acid (20 mL), saturated aqueous sodium chloride solution (20 mL) and dried (MgSO4) to give the title compound (2.16 g).

reactant | 3-[4-(Azetidin-1-ylcarbonyl)-2-chlorophenoxy]-5-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethoxy)benzoic acid | 5.93 mmol, 3.08 g | N1(CCC1)C(=O)C1=CC(=C(OC=2C=C(C(=O)O)C=C(C2)O[C@H](CO[Si](C)(C)C(C)(C)C)C)C=C1)Cl | C26H34ClNO6Si
reactant | Triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
solvent | methanol | 30 mL | CO | CH4O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 3-[4-(Azetidin-1-ylcarbonyl)phenoxy]-5-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethoxy)benzoic acid | 2.16 g | N1(CCC1)C(=O)C1=CC=C(OC=2C=C(C(=O)O)C=C(C2)O[C@H](CO[Si](C)(C)C(C)(C)C)C)C=C1 | C26H35NO6Si
